US03976635
To a solution of sodium salt of ethyl 2-hydroxyimino-2-cyanoacetate (23.1 g) in water (100 ml), a solution of allyl chloroformate (17.0 g) in ethyl acetate (30 ml) is dropwise added at 5° to 10°C. The resulting mixture is stirred for 1 hour while adjusting pH to 7 with the addition of an aqueous solution of sodium hydrogencarbonate. The reaction mixture is extracted with ethyl acetate, and the organic layer is washed with water, dried and concentrated. The residue is distilled under reduced pressure to give ethyl 2-allyloxycarbonyloxyimino-2-cyanoacetate (19.9 g) as an oil. B.P. 122 to 124°C/0.9 mmHg.

reactant | sodium | [Na] | Na
reactant | ethyl 2-hydroxyimino-2-cyanoacetate | 23.1 g | ON=C(C(=O)OCC)C#N | C5H6N2O3
reactant | allyl chloroformate | 17.0 g | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-allyloxycarbonyloxyimino-2-cyanoacetate | 19.9 g | C(C=C)OC(=O)ON=C(C(=O)OCC)C#N | C9H10N2O5
